US20010014691A1
Methyl(3-(2-methyl(3-pyridyloxy))propyl)amine
The 3-chloro-1-(2-methyl(3-pyridyloxy))propane (2.00 g, 10.8 mmol) was dissolved in methanol (25 mL) and added to a 40 wt % aqueous solution of methylamine (50 mL) in a heavy-walled glass pressure-tube apparatus. The tube was sealed and the mixture was stirred and heated at 100° C. (oi I bath temperature) for 4 h. After cooling, the mixture was concentrated by rotary evaporation. Saturated NaCl solution (25 mL) was added to the residue. The pH of the solution was adjusted to 6, and the mixture was extracted with ether (3× 25 mL) to remove impurities. The aqueous layer was basified to pH 10 with 10% NaOH solution and extracted with chloroform (4×50 mL). The combined chloroform extracts were dried (Na2SO4), filtered, and concentrated to give 1.19 g (61.0%) of an oil.

reactant | 3-chloro-1-(2-methyl(3-pyridyloxy))propane | 10.8 mmol, 2.00 g | ClCCCOC=1C(=NC=CC1)C | C9H12ClNO
reactant | methylamine | 50 mL | CN | CH5N
solvent | methanol | 25 mL | CO | CH4O
product | Methyl(3-(2-methyl(3-pyridyloxy))propyl)amine | 1.19 g, 61.0% | CNCCCOC=1C(=NC=CC1)C | C10H16N2O
